US07135482B2
1-(2,4-Difluorobenzyl)-3-dimethylaminomethyl-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
The title compound was prepared by coupling of 1-(2,4-difluoro-benzyl)-3-dimethylaminomethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid and O-methyl hydroxylamine hydrochloride in a manner similar to step (c) of example 1. 1H NMR (CD3OD) δ; 8.90 (s, 1H), 8.50 (s, 1H), 7.89 (s, 1H), 7.41 (m, 1H), 7.00–7.07 (m, 2H), 5.64 (s, 2H), 4.52 (s, 2H), 3.82 (s, 3H), 2.85 (s, 6H). LCMS (APCI, M+H+): 375.0. HRMS calcd for C19H21F2N4O2 (M+H) 375.1633. found 375.1644. HPLC: 100% purity.

reactant | 1-(2,4-difluoro-benzyl)-3-dimethylaminomethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)CN(C)C)C=CC(=C1)F | C18H17F2N3O2
reactant | O-methyl hydroxylamine hydrochloride | Cl.CON
product | 1-(2,4-Difluorobenzyl)-3-dimethylaminomethyl-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)NOC)CN(C)C)C=CC(=C1)F | C19H20F2N4O2
